US08633186B2
2-Amino-6-(furan-3-yl)benzonitrile
Prepared as in Example 129c from furan-3-ylboronic acid and 2-amino-6-bromobenzonitrile in 74% yield as a yellow solid. 1H NMR (400 MHz, CDCl3) δ 4.51 (br s, 2H), 6.66 (dd, J=1.2, 8.4 Hz, 1H), 6.78 (dd, J=1.2, 2.0 Hz, 1H), 6.82 (dd, J=1.2, 8.0 Hz, 1H), 7.31 (t, J=8.0 Hz, 1H), 7.50 (t, J=1.6 Hz, 1H), 7.95 (dd, J=1.2, 1.6 Hz, 1H).

reactant | furan-3-ylboronic acid | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | 2-amino-6-bromobenzonitrile | NC1=C(C#N)C(=CC=C1)Br | C7H5BrN2
product | 2-Amino-6-(furan-3-yl)benzonitrile | 74% yield | NC1=C(C#N)C(=CC=C1)C1=COC=C1 | C11H8N2O
